US07576115B2
Synthesis of methyl 2-chloro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate
Using 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene (55 mg, 0.20 mmol) and methyl 2-chloro-4-hydrazinocarbonylbenzoate (50 mg, 0.22 mmol) as the starting materials, the desired product was obtained in the same manner as in Synthetic Example 65 as a pale yellow solid (86 mg, yield 89%).

reactant | 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.20 mmol, 55 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
reactant | methyl 2-chloro-4-hydrazinocarbonylbenzoate | 0.22 mmol, 50 mg | ClC1=C(C(=O)OC)C=CC(=C1)C(=O)NN | C9H9ClN2O3
product | methyl 2-chloro-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate | ClC1=C(C(=O)OC)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(C)(C)C | C25H25ClN2O4S
